US06521666B1
N-(2,6-dichlorobenzoyl)-4-(2-carboxyphenyl)-L-phenylalanine methyl ester (52.6 mg) was dissolved in anhydrous THF (1 mL), carbonyldiimidazole (36.1 mg) was added and the mixture was stirred at room temperature under N2 for 2 h. Ammonium hydroxide (29% aqueous solution, 135 μL) was added and the mixture was stirred for an additional 22 h. The mixture was then extracted with EtOAc. The extract was washed with 1N HCl, sat. NaHCO3 and brine, dried (MgSO4) and evaporated. The residue was purified through a silica gel column using toluene/EtOAc (1:1) as an eluent to give N-(2,6-dichlorobenzoyl)-4-(2-carbamoylphenyl)-L-phenylalanine methyl ester (48.1 mg. ESMS: m/z 471 (MH+).

reactant | N-(2,6-dichlorobenzoyl)-4-(2-carboxyphenyl)-L-phenylalanine methyl ester | 52.6 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)=O | C24H19Cl2NO5
reactant | carbonyldiimidazole | 36.1 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Ammonium hydroxide | 135 μL | [OH-].[NH4+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(2,6-dichlorobenzoyl)-4-(2-carbamoylphenyl)-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(N)=O)=O | C24H20Cl2N2O4
